US06727238B2
1-[4-(Methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-1H-imidazole
To a mixture of N-[4-(methylsulfonyl)phenyl]-4-(2-thienyl)benzenecarboximidamide (0.7 g, 1.96 mmol) and sodium bicarbonate (0.33 g, 3.93 mmol) in 2-propanol (30 mL) was added 3-bromo-1,1,1-trifluoroacetone (0.449 g, 2.35 mmol). After the reaction mixture was heated to 80° C. for 21 hours, the solvent was removed. The residue was redissolved in CH2Cl2 (50 mL) and washed with water (30 mL×2). The organic fractions were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (2/1) to give the subtitle compound (0.351 g, 30.1% yield, via 2 steps).

reactant | N-[4-(methylsulfonyl)phenyl]-4-(2-thienyl)benzenecarboximidamide | 1.96 mmol, 0.7 g | CS(=O)(=O)C1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)C=1SC=CC1 | C18H16N2O2S2
reactant | sodium bicarbonate | 3.93 mmol, 0.33 g | C([O-])(O)=O.[Na+]
reactant | 3-bromo-1,1,1-trifluoroacetone | 2.35 mmol, 0.449 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | 2-propanol | 30 mL | CC(C)O | C3H8O
product | 1-[4-(Methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-1H-imidazole | 0.351 g, 30.1% yield | CS(=O)(=O)C1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)C=1SC=CC1 | C21H15F3N2O2S2
